US05439925
(a) Allyl 5-(3-tert-butyl-4-methoxybenzoyloxymethyl) -2-thiophenecarboxylate
In a manner similar to Example 1(d), by reaction of 1.6 g (7 mmol) of 3-tert-butyl-4-methoxybenzoyl chloride with 1.4 g (7 mmol) of allyl 5-hydroxymethyl -2-thiophenecarboxylate, 1.5 g (55%) of allyl ester are obtained in the form of a slightly yellow oil.

reactant | 3-tert-butyl-4-methoxybenzoyl chloride | 7 mmol, 1.6 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=CC1OC | C12H15ClO2
reactant | allyl 5-hydroxymethyl -2-thiophenecarboxylate | 7 mmol, 1.4 g | OCC1=CC=C(S1)C(=O)OCC=C | C9H10O3S
product | Allyl 5-(3-tert-butyl-4-methoxybenzoyloxymethyl) -2-thiophenecarboxylate | C(C)(C)(C)C=1C=C(C(=O)OCC2=CC=C(S2)C(=O)OCC=C)C=CC1OC | C21H24O5S
